US07875640B2
5-tert-butylthiazol-2-amine
To a flask equipped with a Dean-Stark trap was added 3,3-dimethylbutanal (Aldrich, 5.0 g, 50 mmol), pyrrolidine (Aldrich, 4.4 mL, 52 mmol) and p-toluenesulfonic acid monohydrate (10 mg) in cyclohexane (70 mL). The mixture was heated to reflux for 3 hours, the water was removed and the organic phase was concentrated under reduced pressure. The residue was dissolved in methanol (20 mL) and cooled to 0° C. Sulfur (Aldrich, 1.6 g, 50 mmol) and a solution of cyanamide (Aldrich, 2.1 g, 50 mmol) in methanol (5 mL) were added. The reaction mixture was allowed to warm to ambient temperature, stirred for 12 hours, and was concentrated under reduced pressure. The residue was purified by column chromatography (SiO2, 2% methanol in CH2Cl2) to afford the title compound. MS (ESI+) m/z 157 (M+H)+.

reactant | 3,3-dimethylbutanal | 50 mmol, 5.0 g | CC(CC=O)(C)C | C6H12O
reactant | pyrrolidine | 52 mmol, 4.4 mL | N1CCCC1 | C4H9N
reactant | p-toluenesulfonic acid monohydrate | 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Sulfur | 50 mmol, 1.6 g | [S] | S
reactant | cyanamide | 50 mmol, 2.1 g | N#CN | CH2N2
solvent | cyclohexane | 70 mL | C1CCCCC1 | C6H12
solvent | methanol | 5 mL | CO | CH4O
product | 5-tert-butylthiazol-2-amine | C(C)(C)(C)C1=CN=C(S1)N | C7H12N2S
